US05250517
2.1 g of (S)-3-(t-butoxycarbonyl)-α-[1-(t-butoxycarbonyl)-N-methylformamido]-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propionamide were dissolved in 30 ml of 3N hydrogen chloride in dioxan and the mixture was left to stand at room temperature for 5 hours. 500 ml of ether were added and the precipitate formed was filtered off. The precipitate was washed with ether and dissolved in water. Solid sodium bicarbonate was added to the aqueous solution and the mixture was extracted several times with ethyl acetate, to obtain there was obtained 0.85 g of (S)-α-(N-methylformamido)-N-[(1S,2S,4S)-1-(cyclohexyl-methyl)-2-hydroxy-4-isopropyl-5-hexenyl)imidazole-4-propion-amide which was used directly in the next step.

reactant | (S)-3-(t-butoxycarbonyl)-α-[1-(t-butoxycarbonyl)-N-methylformamido]-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propionamide | 2.1 g | C(C)(C)(C)OC(=O)N1C=NC=C1C[C@@H](C(=O)N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC1CCCCC1)N(C(=O)C(=O)OC(C)(C)C)C | C34H56N4O7
reactant | ether | 500 ml | CCOCC | C4H10O
solvent | hydrogen chloride | 3N, 30 ml | Cl | ClH
solvent | dioxan | O1CCOCC1 | C4H8O2
product | (S)-α-(N-methylformamido)-N-[(1S,2S,4S)-1-(cyclohexyl-methyl)-2-hydroxy-4-isopropyl-5-hexenyl)imidazole-4-propion-amide | 0.85 g | CN(C=O)[C@H](C(=O)N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC1CCCCC1)CC=1N=CNC1 | C24H40N4O3
